US03931239
A stirred solution of 4,5-dimethyl-6-oxo-7-bromo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid (0.7 g., 0.0019 mole) and lithium bromide (0.5 g., 0.0057 mole) in dimethylformamide (10 ml.) is heated at 95°C. for one hour in an inert atmosphere then poured into water (50 ml.) affording 4,5-dimethyl-6-oxo-7-propylidene-1,2,7,8-tetrahydro-6H-indeno[5,4-b]-furan-2-carboxylic acid as a cream colored solid which melts at 229°C. after recrystallization from ethanol.

reactant | 4,5-dimethyl-6-oxo-7-bromo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.0019 mole, 0.7 g | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)(CCC)Br)=O)C | C17H19BrO4
reactant | lithium bromide | 0.0057 mole, 0.5 g | [Br-].[Li+]
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4,5-dimethyl-6-oxo-7-propylidene-1,2,7,8-tetrahydro-6H-indeno[5,4-b]-furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)=CCC)=O)C | C17H18O4
